US04863929
1,1-diethyl-3-(2,3-dihydro-13-hydroxy-6-methyl-8α-ergolinyl)urea.
With nitrobenzene and 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea:

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea | BrC=1C=C2N(C=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)CCC)[Si](C)(C)C(C)(C)C | C28H45BrN4OSi
product | 1,1-diethyl-3-(2,3-dihydro-13-hydroxy-6-methyl-8α-ergolinyl)urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3CNC4=CC(=CC([C@H]2C1)=C34)O)C)CC | C20H30N4O2
